US07566735B2
(1-methyl-1H-imidazol-2-yl){4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methanone Formic Acid Salt
A stirring mixture of 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole (200 mg; 1.05 mmol), 4-bromoiodobenzene (297 mg; 1.05 mmol), K2CO3 (302 mg; 2.18 mmol), CuI (20 mg; 0.11 mmol) and N,N-dimethyl glycine (30 mg; 0.29 mmol) in DMSO (4 mL) was heated at 130° C. for 5 hours 30 minutes. The reaction mixture was partitioned between DCM and water, the organic phase filtered through silica (eluent—methanol), and concentrated in vacuo, giving a brown oil (411 mg). This was purified by column chromatography, giving a mixture of 1-(4-bromophenyl)-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole and 1-(4-iodophenyl)-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole (205 mg). Under an inert atmosphere of argon, 95 mg of this mixture was dissolved in anhydrous THF (2 mL), cooled to −78° C., and n-butyl lithium (2.5 M in hexanes, 330 μL; 0.82 mmol) was added dropwise over 2 minutes. After stirring for 1 hour, N,1-dimethyl-N-(methyloxy)-1H-imidazole-2-carboxamide (93 mg; 0.55 mmol) was added in one portion to the cold (−78° C.) mixture and the reaction stirred at this temperature for a further 40 minutes. The reaction was warmed to 0° C. and stirred at this temperature for 5 hours 20 minutes. Additional N,1-dimethyl-N-(methyloxy)-1H-imidazole-2-carboxamide (58 mg; 0.34 mmol) was added in one portion, and the reaction stirred at 0° C. for a further 1 hour. The reaction was quenched with aqueous hydrochloric acid (1M, 2 mL), and purified by SCX column chromatography, yielding a white solid (32 mg). This was further purified by MDAP, giving the title compound as white solid (1.14 mg; 0.29% [2 steps]).

reactant | 1-(4-bromophenyl)-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | BrC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | C14H12BrF3N2
reactant | 1-(4-iodophenyl)-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 205 mg | IC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | C14H12F3IN2
reactant | n-butyl lithium | 0.82 mmol, 2.5 M, 330 μL | C(CCC)[Li]
reactant | N,1-dimethyl-N-(methyloxy)-1H-imidazole-2-carboxamide | 0.55 mmol, 93 mg | CN(C(=O)C=1N(C=CN1)C)OC | C7H11N3O2
reactant | N,1-dimethyl-N-(methyloxy)-1H-imidazole-2-carboxamide | 0.34 mmol, 58 mg | CN(C(=O)C=1N(C=CN1)C)OC | C7H11N3O2
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | (1-methyl-1H-imidazol-2-yl){4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methanone Formic Acid Salt | 32 mg | C(=O)O.CN1C(=NC=C1)C(=O)C1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | InChI=1S/C19H17F3N4O.CH2O2/c1-25-11-10-23-18(25)16(27)12-6-8-13(9-7-12)26-15-5-3-2-4-14(15)17(24-26)19(20,21)22;2-1-3/h6-11H,2-5H2,1H3;1H,(H,2,3)
